### PR TITLE
[Merged by Bors] - feat(NumberTheory/ArithmeticFunction/Carmichael): Carmichael totient function

### PR DESCRIPTION
**Pull request by SnirBroshi**
Define `ArithmeticFunction.Carmichael`, the Carmichael function `λ`, also known as the reduced totient function.

Prove the known formula for `λ n` in terms of the prime factorization of `n`, along with some useful properties:
- `a ^ λ n = 1`
- `λ n ∣ φ n`
- `a ∣ b → λ a ∣ λ b`
- `λ (lcm a b) = lcm (λ a) (λ b)`

---

I'm open to suggestions on where to place the `Finset.lcm` lemmas, I created a separate file to avoid adding imports to existing files.

I'm also wondering whether to change the `HasEnoughRootsOfUnity` here to use `Carmichael`: https://github.com/leanprover-community/mathlib4/blob/6a7385f3f6d2c0b674e3ecd96506e57737b77064/Mathlib/NumberTheory/DirichletCharacter/Orthogonality.lean#L31

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GCDMonoid/FinsetLemmas.lean [hunk 1]
```diff
@@ -0,0 +1,39 @@
...
+  lcm_dvd fun _ ↦ dvd_prod_of_mem _
+
+theorem associated_lcm_prod (s : Finset ι) (f : ι → α) (h : Set.Pairwise s <| IsRelPrime.onFun f) :
+    Associated (s.lcm f) (s.prod f) :=
+  associated_of_dvd_dvd (s.lcm_dvd_prod f) (s.prod_dvd_of_isRelPrime h fun _ ↦ dvd_lcm)
+
+theorem lcm_eq_prod (s : Finset ι) (f : ι → ℕ) (h : Set.Pairwise s <| Nat.Coprime.onFun f) :
+    s.lcm f = s.prod f := by
+  have : Nat.Coprime = IsRelPrime := funext₂ fun _ _ ↦ propext Nat.coprime_iff_isRelPrime
+  exact (associated_lcm_prod s f <| this ▸ h).eq_of_normalized (normalize_eq _) (normalize_eq _)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/GCDMonoid/FinsetLemmas.lean]:
```suggestion
  rw [show Nat.Coprime = IsRelPrime by ext; exact Nat.coprime_iff_isRelPrime] at h
  exact (associated_lcm_prod s f h).eq_of_normalized (normalize_eq _) (normalize_eq _)
```
... is perhaps a bit easier to read.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 2]
```diff
@@ -0,0 +1,170 @@
...
+
+@[expose] public section
+
+open Nat Monoid
+
+variable {R : Type*}
+
+namespace ArithmeticFunction
+
+/-- `λ` is the Carmichael function, also known as the reduced totient function. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]: Please say what the definition is (exponent of the unit group of `ZMod n`) in the docstring.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+def Carmichael : ArithmeticFunction ℕ where
+  toFun
+    | 0 => 0
+    | n + 1 => Nat.find <| ExponentExists.of_finite (G := (ZMod (n + 1))ˣ)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean:51]: Why not use `exponent` here?

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 4]
```diff
@@ -0,0 +1,170 @@
...
+  exact pow_exponent_eq_one a
+
+theorem carmichael_dvd_totient (n : ℕ) : Carmichael n ∣ n.totient := by
+  by_cases hn : n = 0
+  · simp [hn]
+  have : NeZero n := ⟨hn⟩
+  rw [← ZMod.card_units_eq_totient, carmichael_eq_exponent]
+  exact Group.exponent_dvd_card
+
+theorem carmichael_dvd (a b : ℕ) (h : a ∣ b) : Carmichael a ∣ Carmichael b := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem carmichael_dvd {a b : ℕ} (h : a ∣ b) : Carmichael a ∣ Carmichael b := by
```
`a` and `b` can be deduced from `h`.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+
+theorem carmichael_eq_exponent (n : ℕ) [NeZero n] : Carmichael n = exponent (ZMod n)ˣ := by
+  cases n
+  · exact NeZero.ne 0 rfl |>.elim
+  simp only [exponent, ExponentExists.of_finite]
+  change Nat.find _ = _
+  grind
+
+@[simp]
+theorem pow_carmichael (n : ℕ) (a : (ZMod n)ˣ) : a ^ Carmichael n = 1 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem pow_carmichael {n : ℕ} (a : (ZMod n)ˣ) : a ^ Carmichael n = 1 := by
```
`n` can be deduced from the type of `a`.

File: Mathlib/Algebra/GCDMonoid/FinsetLemmas.lean [hunk 6]
```diff
@@ -0,0 +1,39 @@
...
+@[expose] public section
+
+namespace Finset
+
+variable {ι α : Type*} [CancelCommMonoidWithZero α] [NormalizedGCDMonoid α]
+
+theorem lcm_dvd_prod (s : Finset ι) (f : ι → α) : s.lcm f ∣ s.prod f :=
+  lcm_dvd fun _ ↦ dvd_prod_of_mem _
+
+theorem associated_lcm_prod (s : Finset ι) (f : ι → α) (h : Set.Pairwise s <| IsRelPrime.onFun f) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/GCDMonoid/FinsetLemmas.lean]: `s` and `f` can be implicit here and in the next one, I think.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 7]
```diff
@@ -0,0 +1,170 @@
...
+    have : NeZero b := ⟨h₀.right⟩
+    have : NeZero (Nat.lcm a b) := ⟨lcm_ne_zero h₀.left h₀.right⟩
+    rw [carmichael_eq_exponent, carmichael_eq_exponent, carmichael_eq_exponent,
+      ← lcm_eq_nat_lcm <| exponent _, ← exponent_prod, ← exponent_eq_of_mulEquiv .prodUnits]
+    exact exponent_dvd_of_monoidHom _ <| Units.map_injective <| ZMod.castHom_injective _
+  · have ha := carmichael_dvd _ _ <| Nat.dvd_lcm_left a b
+    have hb := carmichael_dvd _ _ <| Nat.dvd_lcm_right a b
+    exact Nat.lcm_dvd ha hb
+
+theorem carmichael_mul (a b : ℕ) (h : Coprime a b) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem carmichael_mul {a b : ℕ} (h : Coprime a b) :
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 8]
```diff
@@ -0,0 +1,170 @@
...
+
+theorem carmichael_finset_lcm {α : Type*} (s : Finset α) (f : α → ℕ) :
+    Carmichael (s.lcm f) = s.lcm (Carmichael ∘ f) := by
+  classical
+  refine s.induction ?_ fun a s ha ih ↦ ?_
+  · exact carmichael_eq_exponent 1 |>.trans exp_eq_one_of_subsingleton
+  rw [Finset.lcm_insert, Finset.lcm_insert, ← ih]
+  exact carmichael_lcm ..
+
+theorem carmichael_finset_prod {α : Type*} (s : Finset α) (f : α → ℕ)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem carmichael_finset_prod {α : Type*} {s : Finset α} {f : α → ℕ}
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 9]
```diff
@@ -0,0 +1,170 @@
...
+    (h : Set.Pairwise s <| Coprime.onFun f) : Carmichael (s.prod f) = s.lcm (Carmichael ∘ f) :=
+  s.lcm_eq_prod _ h ▸ carmichael_finset_lcm ..
+
+theorem carmichael_factorization (n : ℕ) [NeZero n] :
+    Carmichael n = n.primeFactors.lcm fun p ↦ Carmichael (p ^ n.factorization p) := by
+  nth_rw 1 [← n.factorization_prod_pow_eq_self <| NeZero.ne _]
+  exact carmichael_finset_prod _ _ pairwise_coprime_pow_primeFactors_factorization.set_of_subtype
+
+theorem carmichael_two_pow_of_le_two_eq_totient (n : ℕ) (hn : n ≤ 2) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem carmichael_two_pow_of_le_two_eq_totient {n : ℕ} (hn : n ≤ 2) :
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 10]
```diff
@@ -0,0 +1,170 @@
...
+    Carmichael (2 ^ n) = (2 ^ n).totient := by
+  rw [carmichael_eq_exponent, ← ZMod.card_units_eq_totient, Fintype.card_eq_nat_card]
+  exact IsCyclic.iff_exponent_eq_card.mp <| ZMod.isCyclic_units_two_pow_iff n |>.mpr hn
+
+@[simp]
+theorem carmichael_two_pow_of_le_two (n : ℕ) (hn : n ≤ 2) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem carmichael_two_pow_of_le_two {n : ℕ} (hn : n ≤ 2) :
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 11]
```diff
@@ -0,0 +1,170 @@
...
+    Carmichael (2 ^ n) = 2 ^ (n - 1) := by
+  rw [carmichael_two_pow_of_le_two_eq_totient _ hn]
+  interval_cases n
+  · simp
+  · simp
+  · rw [totient_prime_pow prime_two <| by lia]
+    simp
+
+@[simp]
+theorem carmichael_two_pow_of_ne_two (n : ℕ) (hn : n ≠ 2) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem carmichael_two_pow_of_ne_two {n : ℕ} (hn : n ≠ 2) :
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 12]
```diff
@@ -0,0 +1,170 @@
...
+    have ⟨k, hk, h⟩ := dvd_prime_pow prime_two |>.mp <| hcard ▸ Group.exponent_dvd_nat_card
+    refine h ▸ (Nat.pow_le_pow_iff_right one_lt_two).mpr ?_
+    have := IsCyclic.iff_exponent_eq_card.not.mp <| ZMod.isCyclic_units_two_pow_iff n |>.not.mpr hn'
+    lia
+  · let five : (ZMod (2 ^ n))ˣ := ZMod.unitOfCoprime 5 <| gcd_pow_right_of_gcd_eq_one rfl
+    rw [← ZMod.orderOf_five (n - 2), show n - 2 + 2 = n by lia,
+      show (5 : ZMod (2 ^ (n))) = five by rfl, orderOf_units]
+    exact orderOf_le_exponent .of_finite _
+
+theorem two_mul_carmichael_two_pow_of_three_le_eq_totient (n : ℕ) (hn : 3 ≤ n) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem two_mul_carmichael_two_pow_of_three_le_eq_totient {n : ℕ} (hn : 3 ≤ n) :
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 13]
```diff
@@ -0,0 +1,170 @@
...
+    2 * Carmichael (2 ^ n) = (2 ^ n).totient := by
+  rw [carmichael_two_pow_of_ne_two n <| by lia, ← pow_succ', totient_prime_pow prime_two <| by lia]
+  lia
+
+@[simp]
+theorem carmichael_pow_of_prime_ne_two (p n : ℕ) (hp : p.Prime) (hp₂ : p ≠ 2) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
theorem carmichael_pow_of_prime_ne_two {p : ℕ} (n : ℕ) (hp : p.Prime) (hp₂ : p ≠ 2) :
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean:51]: `exponent` is `noncomputable` because of the `if ExponentExists` inside it, and I think having `Carmichael` be computable is worth this small inlining. I often use `#eval` with `Nat.totient`/`Nat.factorial`/`Nat.choose` and I find it helpful to play around with `Nat` functions to understand/conjecture theorems about them.

```lean
#eval List.range 20 |>.map Carmichael
```

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean:51]: OK, fair enough.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 14]
```diff
@@ -0,0 +1,171 @@
...
+theorem carmichael_dvd {a b : ℕ} (h : a ∣ b) : Carmichael a ∣ Carmichael b := by
+  by_cases hb : b = 0
+  · rw [hb, map_zero]
+    exact dvd_zero ..
+  have ha : NeZero a := ⟨ne_zero_of_dvd_ne_zero hb h⟩
+  have hb : NeZero b := ⟨hb⟩
+  rw [carmichael_eq_exponent, carmichael_eq_exponent]
+  exact MonoidHom.exponent_dvd <| ZMod.unitsMap_surjective h
+
+@[simp]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]: In what way is the RHS of this clearly simpler than the LHS?

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 15]
```diff
@@ -0,0 +1,171 @@
...
+    | 0 => 0
+    | n + 1 => Nat.find <| ExponentExists.of_finite (G := (ZMod (n + 1))ˣ)
+  map_zero' := rfl
+
+@[inherit_doc]
+scoped[ArithmeticFunction.Carmichael] notation "λ" => ArithmeticFunction.Carmichael
+
+open scoped Carmichael
+
+theorem carmichael_eq_exponent (n : ℕ) [NeZero n] : Carmichael n = exponent (ZMod n)ˣ := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]: I notice that below you frequently need to construct `NeZero` instances to apply this. It may be a good idea to also have a variant that takes an explicit `(h : n ≠ 0)` argument; this should allow to simplify some of the proofs.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 16]
```diff
@@ -0,0 +1,171 @@
...
+  exact carmichael_finset_prod pairwise_coprime_pow_primeFactors_factorization.set_of_subtype
+
+theorem carmichael_two_pow_of_le_two_eq_totient {n : ℕ} (hn : n ≤ 2) :
+    Carmichael (2 ^ n) = (2 ^ n).totient := by
+  rw [carmichael_eq_exponent, ← ZMod.card_units_eq_totient, Fintype.card_eq_nat_card]
+  exact IsCyclic.iff_exponent_eq_card.mp <| ZMod.isCyclic_units_two_pow_iff n |>.mpr hn
+
+@[simp]
+theorem carmichael_two_pow_of_le_two {n : ℕ} (hn : n ≤ 2) :
+    Carmichael (2 ^ n) = 2 ^ (n - 1) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean:129]: Maybe add a docstring pointing out that `2 ^ (n - 1) = 1` when `n = 0`...

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 17]
```diff
@@ -0,0 +1,171 @@
...
+  rw [carmichael_two_pow_of_le_two_eq_totient hn]
+  interval_cases n
+  · simp
+  · simp
+  · rw [totient_prime_pow prime_two <| by lia]
+    simp
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
  interval_cases n <;> decide
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 18]
```diff
@@ -0,0 +1,171 @@
...
+
+@[simp]
+theorem carmichael_two_pow_of_ne_two {n : ℕ} (hn : n ≠ 2) :
+    Carmichael (2 ^ n) = 2 ^ (n - 2) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean:136]: Similar comment on `2 ^ (n - 2)` here.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 19]
```diff
@@ -0,0 +1,171 @@
...
+      rw [card_eq_fintype_card, ZMod.card_units_eq_totient, totient_prime_pow prime_two <| by lia,
+        Nat.add_one_sub_one, mul_one]
+    have ⟨k, hk, h⟩ := dvd_prime_pow prime_two |>.mp <| hcard ▸ Group.exponent_dvd_nat_card
+    refine h ▸ (Nat.pow_le_pow_iff_right one_lt_two).mpr ?_
+    have := IsCyclic.iff_exponent_eq_card.not.mp <| ZMod.isCyclic_units_two_pow_iff n |>.not.mpr hn'
+    lia
+  · let five : (ZMod (2 ^ n))ˣ := ZMod.unitOfCoprime 5 <| gcd_pow_right_of_gcd_eq_one rfl
+    rw [← ZMod.orderOf_five (n - 2), show n - 2 + 2 = n by lia,
+      show (5 : ZMod (2 ^ (n))) = five by rfl, orderOf_units]
+    exact orderOf_le_exponent .of_finite _
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
  refine carmichael_eq_exponent _ |>.trans <| dvd_antisymm ?_ ?_
  · have hcard : Nat.card (ZMod (2 ^ n))ˣ = 2 ^ (n - 1) := by
      rw [card_eq_fintype_card, ZMod.card_units_eq_totient, totient_prime_pow prime_two <| by lia,
        Nat.add_one_sub_one, mul_one]
    have ⟨k, hk, h⟩ := dvd_prime_pow prime_two |>.mp <| hcard ▸ Group.exponent_dvd_nat_card
    have := IsCyclic.iff_exponent_eq_card.not.mp <| ZMod.isCyclic_units_two_pow_iff n |>.not.mpr hn'
    exact h ▸ Nat.pow_dvd_pow 2 (by grind)
  · let five : (ZMod (2 ^ n))ˣ := ZMod.unitOfCoprime 5 <| gcd_pow_right_of_gcd_eq_one rfl
    rw [← ZMod.orderOf_five (n - 2), show n - 2 + 2 = n by lia,
      show (5 : ZMod (2 ^ n)) = five by rfl, orderOf_units]
    exact order_dvd_exponent five
```
It seems more natural to argue by divisibility here.

**Comment by MichaelStollBayreuth** [comment]
> I'm open to suggestions on where to place the `Finset.lcm` lemmas, I created a separate file to avoid adding imports to existing files.

I think a new file is fine. Files are cheap...

**Comment by MichaelStollBayreuth** [comment]
> I'm also wondering whether to change the `HasEnoughRootsOfUnity` here to use `Carmichael`:
> 
> https://github.com/leanprover-community/mathlib4/blob/6a7385f3f6d2c0b674e3ecd96506e57737b77064/Mathlib/NumberTheory/DirichletCharacter/Orthogonality.lean#L31

Maybe not; it would increase imports for possibly doubtful gain.

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean (hunk 14 above)
Comment (SnirBroshi) [reply Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]: I think decomposing exponent problems into two smaller problems is simpler, but I can remove the simp if you disagree

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]: I think it would be better to not mark it `simp` for now.

**Comment by SnirBroshi** [comment]
-awaiting-author

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 20]
```diff
@@ -0,0 +1,165 @@
...
+* A formula for `λ n` in terms of the prime factorization of `n`, given by the following theorems:
+  `carmichael_two_pow_of_le_two`, `carmichael_two_pow_of_ne_two`, `carmichael_pow_of_prime_ne_two`,
+  and `carmichael_factorization`.
+
+## Notation
+
+We use the standard notation `λ` to represent the Carmichael function,
+which is accessible in the scope `ArithmeticFunction.Carmichael`.
+Since the notation conflicts with the anonymous function notation, it is impossible to use this
+notation in statements, but the pretty-printer will use it when showing the goal state.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean:31]: `#check λ` works apparently, but `λ 0` gives an error...

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 21]
```diff
@@ -0,0 +1,165 @@
...
+theorem pow_carmichael {n : ℕ} (a : (ZMod n)ˣ) : a ^ Carmichael n = 1 := by
+  cases n
+  · rw [map_zero, pow_zero]
+  rw [carmichael_eq_exponent']
+  exact pow_exponent_eq_one a
+
+theorem carmichael_dvd_totient (n : ℕ) : Carmichael n ∣ n.totient := by
+  by_cases hn : n = 0
+  · simp [hn]
+  have : NeZero n := ⟨hn⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
  cases n
  · simp
```

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean [hunk 22]
```diff
@@ -0,0 +1,165 @@
...
+  rw [← ZMod.card_units_eq_totient, carmichael_eq_exponent']
+  exact Group.exponent_dvd_card
+
+theorem carmichael_dvd {a b : ℕ} (h : a ∣ b) : Carmichael a ∣ Carmichael b := by
+  by_cases hb : b = 0
+  · simp [hb]
+  rw [carmichael_eq_exponent <| ne_zero_of_dvd_ne_zero hb h, carmichael_eq_exponent hb]
+  have : NeZero b := ⟨hb⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]:
```suggestion
  cases b
  · simp
  have : NeZero a := ⟨ne_zero_of_dvd_ne_zero (by grind) h⟩
  simp_rw [carmichael_eq_exponent']
```
Not sure that this is better, just an alternative (setting up `NeZero a` feels a bit ugly...).

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM.

maintainer delegate

File: Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean (hunk 22 above)
Comment (SnirBroshi) [reply Mathlib/NumberTheory/ArithmeticFunction/Carmichael.lean]: I managed to avoid the `NeZero a` as well:
```lean
  cases b
  · simp
  rw [carmichael_eq_exponent <| ne_zero_of_dvd_ne_zero (by lia) h, carmichael_eq_exponent']
```

**Comment by SnirBroshi** [comment]
bors merge
